US08193198B2
Synthesis of 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenylthio]-1-oxopropyl}amino]propionic acid methyl ester (Compound No. 36)
To a suspension of 3-(2-chloropropionylamino)propionic acid methyl ester (6.93 g) and potassium carbonate (4.72 g) in acetonitrile (150 mL) was added dropwise a solution of 3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-6-trifluoromethyl-1H-pyrimidin-2,4-dione (11.54 g) in acetonitrile (75 mL) at 45° C. to 50° C. for 1 hour. The reaction mixture was stirred at the same temperature for 2 hours and neutralized at 5° C. with 1 N hydrochloric acid. Water and ethyl acetate were added to separate the organic layer. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, dried with magnesium sulfate, filtered, concentrated, and recrystallized with ether to give the target compound (13.00 g, yield 78%, white solid).

reactant | 3-(2-chloropropionylamino)propionic acid methyl ester | 6.93 g | COC(CCNC(C(C)Cl)=O)=O | C7H12ClNO3
reactant | potassium carbonate | 4.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(4-chloro-2-fluoro-5-mercaptophenyl)-1-methyl-6-trifluoromethyl-1H-pyrimidin-2,4-dione | 11.54 g | ClC1=CC(=C(C=C1S)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O2S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenylthio]-1-oxopropyl}amino]propionic acid methyl ester | yield 78% | COC(CCNC(C(C)SC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O)=O | C19H18ClF4N3O5S
